US08703768B2
Step 2: 6-Cyclopropyl-3-(pyrimidin-5-ylamino)-pyrazine-2-carboxylic acid [1-(2-hydroxy-ethyl)-5-methylcarbamoyl-1H-pyrazol-4-yl]-amide
To a suspension of 6-cyclopropyl-N-(5-(methylcarbamoyl)-1-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)-1H-pyrazol-4-yl)-3-(pyrimidin-5-ylamino)pyrazine-2-carboxamide (0.07 g, 138 μmol, Eq: 1.00) at r.t under Ar in MeOH (2.7 ml) was added a amount catalytic amount of para-toluene sulfonic acid. The mixture was stirred at 70° for 1 hr. The solvent was evaporated. The residue was dissolved in dichloromethane, then washed with water. The organic was dried over MgSO4, filtered and evaporated. The crude product was purified by silica gel chromatography using a dichloromethane/MeOH gradient to obtain the tile compound (53 mg, 91%) as yellow solid.

reactant | 6-cyclopropyl-N-(5-(methylcarbamoyl)-1-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)-1H-pyrazol-4-yl)-3-(pyrimidin-5-ylamino)pyrazine-2-carboxamide | 138 μmol, 0.07 g | C1(CC1)C1=CN=C(C(=N1)C(=O)NC=1C=NN(C1C(NC)=O)CCOC1OCCCC1)NC=1C=NC=NC1 | C24H29N9O4
reactant | para-toluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | MeOH | 2.7 ml | CO | CH4O
product | 6-Cyclopropyl-3-(pyrimidin-5-ylamino)-pyrazine-2-carboxylic acid [1-(2-hydroxy-ethyl)-5-methylcarbamoyl-1H-pyrazol-4-yl]-amide | 53 mg, 91% | OCCN1N=CC(=C1C(NC)=O)NC(=O)C1=NC(=CN=C1NC=1C=NC=NC1)C1CC1 | C19H21N9O3
